US04592866
2-[2-(Dimethylamino)ethyl]-2,3-dihydro-4-methyl-1,4-oxazepino[6,7-h]quinoline-5(4H)-thione hydrochloride
Following the procedure of Example 31, 2-(2-chloroethyl)-2,3-dihydro-4-methyl-1,4-oxazepino[6,7-h]quinoline-5(4H)-thione is reacted with dimethylamine to give the title compound.

reactant | 2-(2-chloroethyl)-2,3-dihydro-4-methyl-1,4-oxazepino[6,7-h]quinoline-5(4H)-thione | ClCCC1OC2=C(C=CC=3C=CC=NC23)C(N(C1)C)=S | C15H15ClN2OS
reactant | dimethylamine | CNC | C2H7N
product | 2-[2-(Dimethylamino)ethyl]-2,3-dihydro-4-methyl-1,4-oxazepino[6,7-h]quinoline-5(4H)-thione hydrochloride | Cl.CN(CCC1OC2=C(C=CC=3C=CC=NC23)C(N(C1)C)=S)C | InChI=1S/C17H21N3OS.ClH/c1-19(2)10-8-13-11-20(3)17(22)14-7-6-12-5-4-9-18-15(12)16(14)21-13;/h4-7,9,13H,8,10-11H2,1-3H3;1H
